US05356898
Hydrogen sulfide is bubbled through a solution of 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carbonitrile (4.5 g, 19.3 mmol) and triethylamine (4.3 g, 42.4 mmol) in pyridine (20 nil) at room temperature for 6 hours. The reaction mixture is stirred at room temperature overnight. The solvent is evaporated under vacuum and the residue is recrystallized from ether/hexane to give pure 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carbothioamide (3.0 g, 58%); mp 169°-171° C.

reactant | Hydrogen sulfide | S | H2S
reactant | 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carbonitrile | 19.3 mmol, 4.5 g | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C#N | C13H19N3O
reactant | triethylamine | 42.4 mmol, 4.3 g | C(C)N(CC)CC | C6H15N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4,6-bis (1,1-dimethylethyl)-5-hydroxy-2-pyrimidine carbothioamide | 3.0 g, 58% | CC(C)(C)C1=NC(=NC(=C1O)C(C)(C)C)C(N)=S | C13H21N3OS
